Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Slurred speech, left sided weakness, peripheral vision loss
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo woman with medical history HTN, HLD who 
was transferred from an OSH for evaluation of LT weakness and 
transient dysarthria. She reports feeling very tired the night 
prior to presentation. This morning she woke up tired and "off 
balance". However she continued with all her daily activities
including taking care of her grandson. She spoke to her daughter 
around 2:00pm and thought she sounded drunk and slow to hich her 
daughter agreed. Her family at the bedside reports she had 
trouble getting words out as well as repeating words. The 
patient herself felt off balance which she describes "like she 
had been drugged". She felt like she was falling to the right 
when going upstairs. She denies spinning sensation as she's had 
vertigo before and was "nothing like this". Also seemed confused 
and asked her daughters the same questions repeatedly at the 
time. She reports her peripheral vision was "like a wave moving 
in slow motion". She also remembers her LT hand and foot were 
weak, as
she could not unscrew a cap and later had difficulty with 
putting her left boot on. She reports associated tingling in her 
LT foot and arm. The episode associated with HA starting in her 
forehead and radiating backward. It is now a ___ from ___ 
after medication. She was taken to an OSH where she had a NCHCT 
which was reported as normal, and sent to the ___ ED for 
further
management. This episode lasted from 2PM-12am. Her family 
reports currently her speech is improved as well as her 
confusion. In the ED she had labs notable for hypokalemia to 2.9

Of note she was recently diagnosed with hypertension. Three 
weeks ago she went to the pain specialist for her back and there 
noticed SBPs had been in the 170s-180s with associated DOE. Her 
PCP started HCTZ and SOB improved. 

On neurologic review of systems other than the above mentioned 
symptoms, the patient denies lightheadedness, diplopia, vertigo, 
tinnitus, hearing difficulty, or dysphagia. Denies numbness, 
parasthesia. Denies loss of sensation. Denies bowel or bladder 
incontinence or retention. 

On general review of systems, the patient reports DOE since 3 
weeks ago. Occasionally she feels her heart beating in her ears. 
She also reports joint stiffness and pain. She had a recent RT 
hand rash (petechial)which resolved. Otherwise denies fevers, 
rigors, night sweats, or noticeable weight loss. Denies chest 
pain, or cough. Denies nausea, vomiting, diarrhea, constipation,
or abdominal pain.  No recent change in bowel or bladder habits. 
Denies dysuria or hematuria.
 
Past Medical History:
1. HTN
2. HLD
3. chronic LBP
4. Radiculopathy 
 
Social History:
___
Family History:
-Has a strong family history of cancer, heart disease (two
brothers and a sister with stents one of the passed at 61) 
-Father heart disease
-Mother Lung cancer passed at 91
 
Physical Exam:
# Admission Physical Exam #

Vitals:  
T: 98.0 
HR: 86 
BP: 109/75 
RR: 18 
O2 sat: 96% RA 

General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
Awake, alert, oriented x 3. Able to relate history with
assistance of her daughter at the bedside. Attentive, able to
name ___ backward without difficulty. Speech is fluent with full
sentences, intact repetition, and intact verbal comprehension.
Naming intact.  No paraphasias.  No dysarthria. Normal prosody.
Reading slow but accurate. Able to register 3 objects and recall
___ spontaneously and ___ with cues at 5 minutes. No apraxia. No
evidence of hemineglect. No left-right confusion.  Able to 
follow
both midline and appendicular commands.

- Cranial Nerves - PERRL 2.5->2 brisk. Peripheral vision 
impaired
to red pin over bilateral temporal fields. EOMI, no nystagmus.
V1-V3 without deficits to light touch bilaterally. No facial
movement asymmetry. Hearing intact to finger rub bilaterally. 
Palate elevation symmetric. SCM/Trapezius strength ___
bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  4   4+   4+ 4     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.  No exinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response mute bilaterally.

- Coordination - No tremor but LT sided end point dysmetria with
finger to nose testing. 

- Gait - Unsteady, wide base, veers to RT side. 

# Discharge Physical Exam #

General: patient awake, NAD
Neurologic Examination: 
- Mental Status: Patient awake, alert, and has no difficulty 
relating history, language fluent, intact comprehension, normal 
prosody, normal speech, not dysarthric, no paraphasic errors.

- Cranial nerves: Patient able to smile symmetrically, no facial 
droop

- Motor: No tremors or extra movements

Normal bulk and tone. No drift. No tremor or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5   5    5     5
R  5    ___   ___  5   5    5   5    5     5

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Toes down bilaterally

- Coordination:
No intention tremor
Normal finger tapping bilaterally
Normal heel knee shin bilaterally
Normal foot tapping bilaterally
Mild dysmetria on the left FNF

- Gait
Unsteady gait, falls to the right
Romberg sign - falls to the back
Sitting on the bed with arm crossing on chest - normal
 
Pertinent Results:
ADMISSION LABS:

___ 07:36AM URINE  bnzodzpn-POS barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:36AM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 07:36AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 07:36AM URINE  RBC-7* WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-4
___ 02:11AM   K+-2.9*
___ 02:00AM   GLUCOSE-108* UREA N-19 CREAT-0.9 SODIUM-140 
POTASSIUM-3.0* CHLORIDE-98 TOTAL CO2-32 ANION GAP-13
___ 02:00AM   ALT(SGPT)-36 AST(SGOT)-24 ALK PHOS-95 TOT 
BILI-0.3
___ 02:00AM   cTropnT-<.010
___ 02:00AM   ALBUMIN-4.5 CALCIUM-9.7 PHOSPHATE-4.0 
MAGNESIUM-2.4
___ 02:00AM   WBC-6.9 RBC-5.12 HGB-13.8 HCT-40.1 MCV-78* 
MCH-27.0 MCHC-34.4 RDW-13.2 RDWSD-37.4
___ 02:00AM   NEUTS-45.3 ___ MONOS-7.2 EOS-4.5 
BASOS-0.9 IM ___ AbsNeut-3.14 AbsLymp-2.89 AbsMono-0.50 
AbsEos-0.31 AbsBaso-0.06
___ 02:00AM   PLT COUNT-202
___ 02:00AM   ___ PTT-36.2 ___

DISCHARGE LABS:

___ 11:10AM   GLUCOSE-92 UREA N-20 CREAT-0.8 SODIUM-139 
POTASSIUM-3.1* CHLORIDE-99 TOTAL CO2-31 ANION GAP-12
___ 11:10AM   ALT(SGPT)-42* AST(SGOT)-28 LD(LDH)-163 
CK(CPK)-89 ALK PHOS-80 TOT BILI-0.5
___ 11:10AM   CK-MB-1 cTropnT-<0.01
___ 11:10AM   GGT-24
___ 11:10AM   TOT PROT-6.9 ALBUMIN-4.3 GLOBULIN-2.6 
CHOLEST-198
___ 11:10AM   %HbA1c-5.6 eAG-114
___ 11:10AM   TRIGLYCER-193* HDL CHOL-31 CHOL/HDL-6.4 
LDL(CALC)-128
___ 11:10AM   TSH-2.8
___ 11:10AM   CRP-7.5*
___ 11:10AM   WBC-4.9 RBC-5.10 HGB-13.6 HCT-40.0 MCV-78* 
MCH-26.7 MCHC-34.0 RDW-13.5 RDWSD-37.9
___ 11:10AM   PLT COUNT-188
___ 11:10AM   ___ PTT-37.1* ___

========
IMAGING:
========

ECG:
Sinus rhythm. Somewhat late R wave progression with possible Q 
waves in  
leads I and II. Possible septal myocardial infarction. Mild Q-T 
interval 
prolongation. No previous tracing available for comparison. 
Clinical 
correlation is suggested.  

CTA HEAD & CTA NECK:
IMPRESSION: 

1. No acute intracranial abnormality on noncontrast head CT. 
2. 25% stenosis of the proximal right internal carotid artery of 
a NASCET 
criteria. 
3. No evidence for dissection or aneurysm greater than 3 mm. 

MR HEAD W/WO CONTRAST:
IMPRESSION: 
1.  Study is mildly degraded by motion. 
2. No acute intracranial abnormality. 
3. No evidence of acute infarct. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a PMH of newly diagnosed 
HTN and ___ transferred from OSH for left sided weakness and 
transient dysarthria. At OSH her NCHCT was reported as normal, 
and she was sent to the ___ ED for further management. ECG 
showed sinus rhythm. CTA HEAD & CTA NECK showed no acute 
intracranial abnormality, dissection, or aneurysm. MR HEAD W/WO 
CONTRAST showed no acute infarct or intracranial abnormality. 
There was no indication that the patient had a stroke or TIA on 
imaging. The differential diagnosis includes functional syndrome 
vs. migraine. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO BID 
2. Gabapentin 900 mg PO QHS 
3. Atorvastatin 20 mg PO QPM 
4. Amitriptyline 50 mg PO QHS 
5. Omeprazole 40 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Vitamin D 200 UNIT PO DAILY 
8. krill oil 500 mg oral DAILY 
9. Fish Oil (Omega 3) 1400 mg PO DAILY 
10. TraMADol 50 mg PO QHS:PRN pain 
11. Chlorthalidone 25 mg PO DAILY 

 
Discharge Medications:
1. Amitriptyline 50 mg PO QHS 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Gabapentin 300 mg PO BID 
5. Gabapentin 900 mg PO QHS 
6. Omeprazole 40 mg PO DAILY 
7. TraMADol 50 mg PO QHS:PRN pain 
8. Vitamin D 200 UNIT PO DAILY 
9. Chlorthalidone 25 mg PO DAILY 
10. Fish Oil (Omega 3) 1400 mg PO DAILY 
11. krill oil 500 mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the neurology service at ___ with some 
symptoms of gait unsteadiness. You had an MRI of your brain and 
a CT scan of the blood vessels in your head and neck which were 
both normal. There is no indication that you have had a stroke 
or transient ischemic attack. Your symptoms may be due to a 
migraine. You were seen by physical therapy who _____ .

We have made no changes to your medications. 
 
Followup Instructions:
___